US05441971
A mixture of 5-chloromethyl-2-[2-(4-nitrophenoxy)-ethyl]pyridine (9.5 g), potassium cyanide (3.2 g) and N,N-dimethylformamide (100 ml) was stirred at 60° C. for 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to obtain 5-cyanomethyl-2-[2-(4-nitrophenoxy)ethyl]pyridine (9.0 g, yield: 98%). This compound was recrystallized from ethyl acetate-hexane to obtain colorless prisms, m.p. 94°-95° C.

reactant | 5-chloromethyl-2-[2-(4-nitrophenoxy)-ethyl]pyridine | 9.5 g | ClCC=1C=CC(=NC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H13ClN2O3
reactant | potassium cyanide | 3.2 g | [C-]#N.[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-cyanomethyl-2-[2-(4-nitrophenoxy)ethyl]pyridine | 9.0 g, yield: 98% | C(#N)CC=1C=CC(=NC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C15H13N3O3
